US07381824B2
3-[[4-(4-fluoro-phenoxy)-benzenesulfonyl]-(1-hydroxycarbamoyl-cyclopentyl)-amino]-propionic acid;
3-exo-3-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-8-oxa-bicyclo[3.2.1]octane-3-carboxylic acid hydroxyamide; (2R,3R)1-[4-(2-chloro-4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid hydroxyamide; 4-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-4-carboxylic acid hydroxyamide; 3-[[4-(4-fluoro-phenoxy)-benzenesulfonyl]-(1-hydroxycarbamoyl-cyclobutyl)-amino]-propionic acid; 4-[4-(4-chloro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-4-carboxylic acid hydroxyamide; (R)3-[4-(4-chloro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid hydroxyamide; (2R,3R)1-[4-(4-fluoro-2-methyl-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid hydroxyamide;

reactant | (2R,3R)1-[4-(2-chloro-4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid hydroxyamide | ONC(=O)[C@@H]1N(CCC[C@@]1(C)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=C(C=C(C=C1)F)Cl | C20H22ClFN2O6S
reactant | 4-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-4-carboxylic acid hydroxyamide | ONC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C18H19FN2O6S
reactant | 3-[[4-(4-fluoro-phenoxy)-benzenesulfonyl]-(1-hydroxycarbamoyl-cyclobutyl)-amino]-propionic acid | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N(CCC(=O)O)C2(CCC2)C(NO)=O)C=C1 | C20H21FN2O7S
reactant | 4-[4-(4-chloro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-4-carboxylic acid hydroxyamide | ONC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C18H19ClN2O6S
reactant | (R)3-[4-(4-chloro-phenoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid hydroxyamide | ONC(=O)[C@@]1(COCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C18H19ClN2O6S
reactant | (2R,3R)1-[4-(4-fluoro-2-methyl-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid hydroxyamide | ONC(=O)[C@@H]1N(CCC[C@@]1(C)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=C(C=C(C=C1)F)C | C21H25FN2O6S
product | 3-[[4-(4-fluoro-phenoxy)-benzenesulfonyl]-(1-hydroxycarbamoyl-cyclopentyl)-amino]-propionic acid | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N(CCC(=O)O)C2(CCCC2)C(NO)=O)C=C1 | C21H23FN2O7S
